US08334287B2
6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-3-methyl-3H-pyrimidin-4-one
To a solution of 50.0 mg (0.160 mmol) of 6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-3H-pyrimidin-4-one and 0.020 ml (45.5 mg, 0.321 mmol) of methyl iodide in 10 ml of acetone were added 44 mg (0.321 mmol) of potassium carbonate. The suspension was stirred for 48 at room temperature. The suspension was filtered and the salts were washed with acetone. The filtrate was concentrated in vaccuo. The residue was dissolved in ethyl acetate/methanol, 1 g of silicagel was added and the suspension was concentrated in vaccuo. The silicagel containing adsorbed product was loaded onto a flash chromatography column and eluted with a 90:10 mixture of ethyl acetate and methanol. One obtains 6 mg (0.018 mmol, 11.5%) of the title compound as a crystalline light yellow solid, MS: 326.2, 328.2 (M+H+) separated from the undesired O-alkylation product.

reactant | 6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-3H-pyrimidin-4-one | 0.160 mmol, 50.0 mg | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(NC=N1)=O)C | C15H10ClN5O
reactant | methyl iodide | 0.321 mmol, 0.020 ml, 45.5 mg | CI | CH3I
reactant | potassium carbonate | 0.321 mmol, 44 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-3-methyl-3H-pyrimidin-4-one | 0.018 mmol, 6 mg, 11.5% | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(N(C=N1)C)=O)C | C16H12ClN5O
